US08445505B2
To a mixture of 5-chloro-N4-(5-methyl-1H-pyrazol-3-yl)-N2-(4-methyl-5-(piperidin-4-yl)pyridin-2-yl)pyrimidine-2,4-diamine (50 mg, 0.12 mmol) and triethylamine (50 uL, 0.36 mmol) in DMF (1.5 mL), was added 2-bromo-acetamide (25 mg, 0.18 mmol). The mixture was stirred at room temperature for 2 hours. The reaction was filtered and the filtrate was purified by RP-HPLC to afford 2-(4-(6-(5-Chloro-4-(5-methyl-1H-pyrazol-3-ylamino)pyrimidin-2-ylamino)-4-methylpyridin-3-yl)piperidin-1-yl)acetamide as a white solid; 1H NMR (400 MHz, MeOD-d4) δ 8.30 (s, 1H), 8.21 (s, 1H), 7.28 (s, 1H), 6.19 (s, 1H), 4.0 (s, 2H), 3.80-3.73 (m, 2H), 3.33-3.21 (m, 3H), 2.61 (s, 3H), 2.37 (s, 3H), 2.37-2.32 (m, 2H), 2.20-2.16 (m, 2H); ESMS m/z 456.2 (M+H+).

reactant | 5-chloro-N4-(5-methyl-1H-pyrazol-3-yl)-N2-(4-methyl-5-(piperidin-4-yl)pyridin-2-yl)pyrimidine-2,4-diamine | 0.12 mmol, 50 mg | ClC=1C(=NC(=NC1)NC1=NC=C(C(=C1)C)C1CCNCC1)NC1=NNC(=C1)C | C19H23ClN8
reactant | triethylamine | 0.36 mmol, 50 uL | C(C)N(CC)CC | C6H15N
reactant | 2-bromo-acetamide | 0.18 mmol, 25 mg | BrCC(=O)N | C2H4BrNO
solvent | DMF | 1.5 mL | CN(C)C=O | C3H7NO
product | 2-(4-(6-(5-Chloro-4-(5-methyl-1H-pyrazol-3-ylamino)pyrimidin-2-ylamino)-4-methylpyridin-3-yl)piperidin-1-yl)acetamide | ClC=1C(=NC(=NC1)NC1=CC(=C(C=N1)C1CCN(CC1)CC(=O)N)C)NC1=NNC(=C1)C | C21H26ClN9O
